US09023847B2
16. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-(2-aminoethyl)morpholine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 372 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.50 (1H, br. s.) 10.03 (1H, s) 8.00 (2H, d, J=5.47 Hz) 7.77 (1H, d, J=5.37 Hz) 7.41 (1H, d, J=5.37 Hz) 7.29 (1H, dd, J=3.42, 2.44 Hz) 6.72 (1H, d, J=5.47 Hz) 6.44 (1H, dd, J=3.47, 1.90 Hz) 3.39-3.46 (4H, m) 3.33-3.39 (2H, m) 2.41 (2H, t, J=6.64 Hz) 2.33 (4H, br. s.)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | N1(CCOCC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H21N5O2S
